data/mechanisms/records/IMS8-EQ8.119.json
{"mechanism_id": "IMS8-EQ8.119", "species": [{"species_id": "trimethoxy_oxocarbenium_ion", "mapped_smiles": "[CH3:2][O:1][CH2:3][CH:4]([O:5][CH3:6])[CH:7]=[O+:8][CH3:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "dimethoxycarbenium_ion_75", "mapped_smiles": "[CH3:2][O:1][CH:7]=[O+:8][CH3:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_vinyl_ether_neutral", "mapped_smiles": "[CH2:3]=[CH:4][O:5][CH3:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["trimethoxy_oxocarbenium_ion"]}, {"state_id": "state_products", "species_ids": ["dimethoxycarbenium_ion_75", "methyl_vinyl_ether_neutral"]}], "steps": [{"step_id": "step_re_methoxyl_migration_with_elimination", "from_state": "state_precursor", "to_state": "state_products", "step_class": "elimination_with_group_migration", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 7]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_re_methoxyl_migration_with_elimination", "support_type": "textbook_proposed", "locator": {"page": 219, "equation": "8.119", "figure": null, "panel": "the four arcs on the left-hand structure; the reaction arrow is labelled 're'", "section": "8.11 Other rearrangements -- 'EE+ ions can also undergo such group migrations with elimination' (Eqs 8.117-8.120)"}, "confidence": 0.8, "curator_note": "Book draws 4 arc(s); moves <1,2,3,4> are drawn, move <5> is an implicit hook required for electron balance (not drawn on the page). ARC GEOMETRY AS READ FROM THE SCAN (zoomed to 14x): (1) a long arc whose tail sits on the CH=+OCH3 double bond and whose head points down-left into the empty space between the CH3O oxygen and that CH -- the forming O-C bond; (2) an arc whose tail is on the CH3O-CH2 bond and whose head points up-right into the SAME space, so two heads meet on the forming O-C bond; (3) a second arc from the CH3O-CH2 bond whose head points down-right onto the middle of the H2C-CH bond; (4) an arc whose tail is on the CH-CH (vertical) bond and whose head points down-left onto the same H2C-CH midpoint -- the two heads there make the characteristic 'W'. Two heads per new bond means single-electron arcs, so all four are encoded with electron_count 1. THE IMPLICIT FIFTH HOOK: as drawn, the C=+O pi bond gives up one electron (arc 1) and the C-C bond gives up only one (arc 4), yet the product the book prints, CH3O-CH=+OCH3, still has a full C=O and no C-C bond. The balance is restored by exactly one further single-electron move -- the second electron of the breaking C-C bond returning into the C=+O pi system -- which the book does not draw. It is encoded here as move 5. SUBSTRATE: the drawing is CH3O-CH2-CH(OCH3)-CH=+OCH3 (C6H13O3+, m/z 133.09), a permethylated-carbohydrate oxocarbenium; the products drawn are CH2=CHOCH3 and CH3O-CH=+OCH3 (m/z 75)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": null, "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 133.0859, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_75", "species_id": "dimethoxycarbenium_ion_75", "step_id": "step_re_methoxyl_migration_with_elimination", "observed_mz": 75.0441, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
